Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Escalating CP/DOE x 3 wks
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Pt is a ___ y/o F hx hyperlipidemia, HTN, asthma, who 
presents after 3 weeks of SOB/DOE and one episode of SSCP. In 
___, she noted for the first time to have some mild DOE 
wholie golfing, but this resolved and she did not think much 
about it. Then 3 weeks PTA, she was in ___ and had an episode of 
severe SSCP, non radiating, lasting for almost an hour in the 
middle of a tennis match. She also noted SOB at that time and 
stopped playing tenins. She thought this was an asthma 
exacerbation. Then over the next week, while doing her normal 
activities (golf, walking w/ husband to events) she noticed 
feeling more SOB with exertion and whenever climbing inclines. 
Normally she is very active and can walk 3 miles without 
difficulty. These symptoms lasted for a week, but she had no 
further episodes of CP. When she finally returned from ___, she 
saw her PCP, who did EKG and revealed numerous changes. She was 
sent to ED for further eval.  
.  
In ED, 98.6 HR 126, BP 145/90, RR 16, 98%RA. she was noted to 
have diffuse TWI I, AVL, V4-6 since ___. She has been 
asymptomatic for the past week. D-dimer 865, but CTA negative 
for PE. CE neg X 1.  
.  
On the floor, she reports feeling very well and denies any SOB, 
plap, CP, pressure, ___ edema, PND/orthopnea, recent illneess. 
Essentially, she feels totally fine and like her usual self.  

 
Past Medical History:
HTN  
Hyperlipidemia  
OSA: stopped using mask ___ year ago b/c felt that she didn't need 
it  
Asthma  
hx MR on echo ___  

 
Social History:
___
Family History:
 
Father: amyloid  
Mother: cancer  
NO fam hx premature CAD, SCD  

 
Physical Exam:
 
PE: 98.4 142/90 95 16 97%2LNC  
Gen: pleasant, well appearing  
HEENT: Clear OP, MMM  
NECK: Supple, No LAD, No JVD  
CV: RR, NL rate. NL S1, S2. II/VI systolic mumur at LUSB  
LUNGS: CTA, BS ___, No W/R/C  
ABD: Soft, NT, ND. NL BS. No HSM  
EXT: No edema. 2+ DP pulses ___  
SKIN: No lesions  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Normal coordination. Gait assessment deferred  
PSYCH: Listens and responds to questions appropriately, pleasant 
 

 
Pertinent Results:
___ 07:14AM BLOOD CK(CPK)-77
___ 02:40PM BLOOD CK(CPK)-192*
___ 07:14AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 02:40PM BLOOD cTropnT-<0.01
___ 07:14AM BLOOD Calcium-9.3 Phos-3.2 Mg-2.1 Cholest-202*
___ 07:14AM BLOOD Triglyc-77 HDL-71 CHOL/HD-2.8 LDLcalc-116
. 
RADIOLOGY: 
CTA ___:  Extremely limited evaluation of the segmental and 
subsegmental pulmonary arterial vasculature. No evidence of 
central pulmonary embolism.
. 
CXR ___: No CHF. Suggestion of hyperinflation raising 
possibility of underlying obstructive lung disease.
. 
EKG ___: Sinus tachycardia. Left axis deviation. Left anterior 
fascicular block. Lateral T wave inversions suggest myocardial 
ischemia. Compared to the previous tracing of ___ sinus 
tachycardia, left anterior fascicular block and T wave 
inversions are all new. 
. 
ETT-Mibi ___: This ___ year old woman with a history of asthma 
was 
referred to the lab for evaluation of chest pain and new 
inverted T 
waves. The patient exercised for 8 minutes of a Gervino protocol 
and 
stopped for fatigue. The estimated peak MET capacity was 4.3 
which 
represents an average physical working capacity for her age. No 
arm, 
neck, back or chest discomfort was reported by the patient 
throughout 
the study. She did note shortness of breath with exercise that 
appeared 
to be appropriate for the task. The baseline EKG showed global 
inverted 
T waves. At peak exercise there were no significant ST-T wave 
changes. 
The rhythm was sinus with several isolated apbs and vpbs. 
Approrpiate 
hemodynamic response to exercise. 
.
The image quality is good. Some breast attenuation is present. 
Left ventricular cavity size is normal. 
Resting and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium. 
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 62%. 

. 
TTE ___:  
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%) Right ventricular chamber size and free wall 
motion are normal. The number of aortic valve leaflets cannot be 
determined. There is no aortic valve stenosis. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion.  

 
Brief Hospital Course:
ASSESSMENT: The patient is a ___ y/o F p/w hx of CP, DOE and new 
EKG changes that may be suggestive of ischemia compared to a 
previous EKG from ___
. 
1) CP/DOE
Her escalating symptoms of DOE suggested cardiac ischemia and 
her EKG had evidence of deep TWIs throughout her precordium to 
possibly suggest inferolateral or proximal LAD territory 
ischemia.  She was initiated on ASA and a BBlocker and her 
statin was continued.  She was monitored on telemetry and her 
CEs were normal throughout her admission.  She received an 
ETT-Mibi on ___ to evaluate for coronary ischemia which 
ultimately did not show any evidence of ischemia.  A TTE did not 
show any evidence of wall motion abnormalities and she had a 
normal echocardiogram.  Cardiology had been consulted and 
thought that her EKG changes were likely non-specific 
repolarization abnormalities and not related to ischemia.  She 
was discharged on her home dose of Verapamil with suggestion to 
discuss with her PCP whether starting ___ 10mg daily 
would be helpful.  She believes she may have had some mild leg 
cramping in the past on Lisinopril and was advised to discuss 
this with her PCP prior to initiating the therapy.    
.  
2) Asthma:  
She did not require any aggressive therapy for her asthma while 
in house.  Further management was deferred to her PCP.  There 
was suggestion of hyperinflation on her CXR although no comment 
on this from CTA.  Prior PFTs in ___ were normal.  
Consideration of repeat PFTs at this time was deferred to her 
outpatient PCP. 
. 
3) Hyperlipidemia: 
Her fasting lipid profile was rechecked during her 
hospitalization and was within goal range.  She was discharged 
on her home dose of Lipitor. 
.
DISPO: Discharaged in stable condition to follow up with her PCP
 
___ on ___:
 
lipitor 10 mg daily  
verapamil 120 daily  
MVI  

 
Discharge Medications:
1. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Verapamil 120 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO once a day.  
4. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain of unclear etiology

 
Discharge Condition:
Stable for discharge home. 

 
Discharge Instructions:
You were admitted with chest pain and changes on your EKG and 
found to have a normal stress test and echocardiogram.  Your 
chest pain may have been from your asthma or a viral bronchitis. 

. 
Please take medications as instructed below - changes to your 
home regimen were made during this hospitalization.  The 
cardiologists suggested starting Lisinopril 10mg daily - please 
discuss this with Dr. ___ in the setting of possible muscle 
cramps the previous time you took this medication.  Please take 
an Aspirin once a day until instructed to stop by a doctor. 
. 
If you develop worsening chest pain, shortness of breath, 
sweating, fainting or passing out, or any other worrisome 
symptoms, please call your doctor or report to the nearest ER.
 
Followup Instructions:
___